US08022205B2
Using bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine (200 mg) and 2-(3-bromo-phenyl)-1-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-ethanone (143 mg) instead of 4-chloropicolinic acid t-butylamide, in the same manner as Example 1-D-07, a crude product of 2-[3-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-phenyl]-1-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-ethanone was obtained, and further PMB group was removed according to the above Deprotection method 2, to obtain the desired compound (D-186) as a yellow powder (56 mg, 28%).

reactant | bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine | 200 mg | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)NCC3)CC3=CC=C(C=C3)OC)C=C1 | C30H33N7O3
reactant | 2-(3-bromo-phenyl)-1-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-ethanone | 143 mg | BrC=1C=C(C=CC1)CC(=O)N1CCN(CC1)CCO | C14H19BrN2O2
product | 2-[3-(4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidin-7-yl)-phenyl]-1-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-ethanone | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)N(CC3)C=3C=C(C=CC3)CC(=O)N3CCN(CC3)CCO)CC3=CC=C(C=C3)OC)C=C1 | C44H51N9O5
